US08217204B2
A mixed solution of 75.0 ml (632 mmol) of 1-methyl-1-cyclohexene and 56.4 ml (632 mmol) of benzene was added at 0° C. dropwise to 225.6 ml (2.53 mol) benzene solution of 231 g (2.36 mol) of sulfuric acid spending 1.5 hours, followed by stirring at 0° C. for 1.5 hours. The reaction solution was quenched by adding 300 ml of water, and the water layer was separated. The thus obtained organic layer was washed with 100 ml of saturated sodium hydrogen carbonate aqueous solution, 100 ml of water and 100 ml of saturated brine and dried with anhydrous sodium sulfate. After filtering the desiccant, the filtrate was concentrated to obtain crude 1-methylcyclohexylbenzene. By purifying the thus obtained crude 1-methylcyclohexylbenzene by distillation under a reduced pressure (from 110 to 113° C./10 mmHg), 40.2 g of the specified substance was obtained with a yield of 36.5%.

reactant | 1-methyl-1-cyclohexene | 632 mmol, 75.0 ml | CC1=CCCCC1 | C7H12
reactant | benzene | 632 mmol, 56.4 ml | C1=CC=CC=C1 | C6H6
reactant | benzene | 2.53 mol, 225.6 ml | C1=CC=CC=C1 | C6H6
reactant | sulfuric acid | 2.36 mol, 231 g | S(O)(O)(=O)=O | H2O4S
product | 1-methylcyclohexylbenzene | yield of 36.5% | CC1(CCCCC1)C1=CC=CC=C1 | C13H18
